US07863450B2
Thionyl chloride (1.55 g, 13.09 mmol, 1.1 equiv.) is added dropwise to 4-(3-chloropropoxy)-N-(2-hydroxy-1,1-dimethylethyl)benzamide ax53 (3.18 g, 11.9 mmol, 1 eq) in dry dichloromethane (100 ml), under a nitrogen atmosphere over 30 min. The solution is then stirred for 3 h. Water and potassium carbonate are finally added and the mixture is stirred until no more bubbles are formed (pH=10). The layers are separated and the dichloromethane layer is washed with brine, dried over sodium sulfate and evaporated under vacuum to give 3.18 g of 2-[4-(3-chloropropoxy)phenyl]-4,4-dimethyl-4,5-dihydro-1,3-oxazole ax10.

reactant | Thionyl chloride | 13.09 mmol, 1.55 g, 1.1 equiv. | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(3-chloropropoxy)-N-(2-hydroxy-1,1-dimethylethyl)benzamide | ClCCCOC1=CC=C(C(=O)NC(CO)(C)C)C=C1 | C14H20ClNO3
reactant | Water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-[4-(3-chloropropoxy)phenyl]-4,4-dimethyl-4,5-dihydro-1,3-oxazole | 3.18 g, Yield: 99% | ClCCCOC1=CC=C(C=C1)C=1OCC(N1)(C)C | C14H18ClNO2
